US06562823B1
Step A: Preparation of [2-(tri-n-Butylstannyl)-1-ethynyl]cyclobutane
To a solution of n-BuLi/hexane (7.28 mL, 18.2 mmol, 2.5 M) at −5° C. was added tetrahydrofuran dropwise, maintaining the temperature below +9° C. 6-Chloro-1-hexyne (1.00 mL, 8.92 mmol) was added at +5° C., and the solution was stirred for six hours. The reaction was quenched by the addition of tri-n-butyltin chloride (2.66 mL, 9.81 mmol), and was allowed to stir for an additional 10 minutes. The solution was poured into hexane, washed with saturated NaHCO3 solution and brine, dried (Na2SO4), filtered, and concentrated in vacuo. The product was isolated as a colorless liquid which was used without further purification.

reactant | n-BuLi hexane | 18.2 mmol, 2.5 M, 7.28 mL | [Li]CCCC.CCCCCC
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 6-Chloro-1-hexyne | 8.92 mmol, 1.00 mL | ClCCCCC#C | C6H9Cl
reactant | tri-n-butyltin chloride | 9.81 mmol, 2.66 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | hexane | CCCCCC | C6H14
product | [2-(tri-n-Butylstannyl)-1-ethynyl]cyclobutane | C(CCC)[Sn](C#CC1CCC1)(CCCC)CCCC | InChI=1S/C6H7.3C4H9.Sn/c1-2-6-4-3-5-6;3*1-3-4-2;/h6H,3-5H2;3*1,3-4H2,2H3;
